US07576115B2
Synthesis of 2-acetamino-4-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoic acid
To a suspension of methyl 2-acetamino-4-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}-hydrazino)carbonyl]benzoate (50.8 mg, 0.1 mmol) in isopropyl alcohol (1.0 mL), 0.2 M sodium hydroxide aqueous solution (1.1 mL, 0.22 mmol) was added, and the mixture was stirred at room temperature for 6 hours. After completion of the stirring, 1 M hydrochloric acid (220 μL) was added, and the precipitated solid was filtered and then washed with methanol to obtain 17.5 mg of the desired product as a pale yellow solid (yield 35%).

reactant | methyl 2-acetamino-4-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}-hydrazino)carbonyl]benzoate | 0.1 mmol, 50.8 mg | N(C(=O)C)C1=C(C(=O)OC)C=CC(=C1)C(=O)NN=C(C)C1=CSC(=C1O)C1=CC=C(C=C1)C(C)(C)C | C27H29N3O5S
reactant | sodium hydroxide | 0.22 mmol, 0.2 M, 1.1 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 M, 220 μL | Cl | ClH
solvent | isopropyl alcohol | 1.0 mL | C(C)(C)O | C3H8O
product | 2-acetamino-4-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoic acid | 17.5 mg, yield 35% | N(C(=O)C)C1=C(C(=O)O)C=CC(=C1)C(=O)NN=C(C)C1=CSC(=C1O)C1=CC=C(C=C1)C(C)(C)C | C26H27N3O5S
